US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3-hydroxyphenylboronic acid (20.7 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(3-hydroxy-phenyl)-thiazole-5-carboxylic acid (2.4 mg, 6%) as a white solid. MS m/z 398 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3-hydroxyphenylboronic acid | 0.15 mmol, 20.7 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(3-hydroxy-phenyl)-thiazole-5-carboxylic acid | 2.4 mg, 6% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)O)C(=O)O)C=C1OC | C19H15N3O5S
